US06949542B2
{4-Chloro-2-[3-oxo-3-(3-pyrimidin-5-yl-phenyl)-propionylamino]-5-trifluoromethyl-phenyl}-carbamic acid tert-butyl ester
The title compound was prepared from (2-amino-4-chloro-5-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester (Example J24) (311 mg, 1.0 mmol) and 3-oxo-3-(3-pyrimidin-5-yl-phenyl)-propionic acid tert-butyl ester (Example K13) (298 mg, 1.0 mmol) according to the general procedure M. Obtained as a yellow oil (320 mg, 60%).

reactant | (2-amino-4-chloro-5-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester | 1.0 mmol, 311 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)C(F)(F)F)Cl)N)=O | C12H14ClF3N2O2
reactant | 3-oxo-3-(3-pyrimidin-5-yl-phenyl)-propionic acid tert-butyl ester | 1.0 mmol, 298 mg | C(C)(C)(C)OC(CC(C1=CC(=CC=C1)C=1C=NC=NC1)=O)=O | C17H18N2O3
product | {4-Chloro-2-[3-oxo-3-(3-pyrimidin-5-yl-phenyl)-propionylamino]-5-trifluoromethyl-phenyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)C(F)(F)F)Cl)NC(CC(C1=CC(=CC=C1)C=1C=NC=NC1)=O)=O)=O | C25H22ClF3N4O4
